US09328111B2
Step 1: Methyl 2-oxocyclooctanecarboxylate
To a solution of dimethyl carbonate (30 mL, 0.36 mol) in dry THF (600 mL) was added sodium hydride (15 g, 0.36 mol) by portion at 5-10° C. The resulting mixture was stirred at this temperature for 30 min and then was added a solution of cyclooctanone (15.0 g, 0.12 mol) in THF (100 mL) dropwise over 30 min. The resultant mixture was stirred at refluxed for 4 h before cooling to room temperature. The reaction mixture was poured into saturated NaHCO3 solution (100 mL) and ice (500 g), and then the mixture was extracted with PE/EA (4:1, 400 mL×2). The organic layer was washed with brine (400 mL), dried over Na2SO4 and concentrated to give crude product. Then the target product (19.3 g, 88%) was purified by distilling at 60° C. in vacuum.

reactant | dimethyl carbonate | 0.36 mol, 30 mL | C(OC)(OC)=O | C3H6O3
reactant | sodium hydride | 0.36 mol, 15 g | [H-].[Na+]
reactant | cyclooctanone | 0.12 mol, 15.0 g | C1(CCCCCCC1)=O | C8H14O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl 2-oxocyclooctanecarboxylate | O=C1C(CCCCCC1)C(=O)OC | C10H16O3
